US06417185B1
2-Chloro-4-methyl-5-nitropyrimidine (2.0 g, 11.5 mmol) in acetonitrile (10 ml) was added dropwise to ethylenediamine (2.5 ml) in acetonitrile (10 ml). The mixture was stirred overnight at room temperature. The solvent was removed by rotary evaporation and the residue was partitioned between dichloromethane and 2.5 M aqueous sodium hydroxide. The aqueous layer was further extracted 4 times with dichloromethane. The combined organic layers were washed with a saturated sodium chloride solution, dried and concentrated in vacuo to give (2-aminoethyl)(4-methyl-5-nitro(2-pyridyl))amine as an orange solid (1.74 g).

reactant | 2-Chloro-4-methyl-5-nitropyrimidine | 11.5 mmol, 2.0 g | ClC1=NC=C(C(=N1)C)[N+](=O)[O-] | C5H4ClN3O2
reactant | ethylenediamine | 2.5 ml | C(CN)N | C2H8N2
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (2-aminoethyl)(4-methyl-5-nitro(2-pyridyl))amine | 1.74 g | NCCNC1=NC=C(C(=C1)C)[N+](=O)[O-] | C8H12N4O2
